US09062028B2
Step E. 7-Bromo-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one
To a suspension of 7-bromo-3-(4-methoxybenzyl)-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one (0.300 g, 0.837 mmol) in 9:1 acetonitrile/water (5.5 mL) was added CAN (0.459 g, 0.837 mmol) at room temperature. After stirring at room temperature overnight, the reaction mixture was quenched with water (10 mL) and adjusted pH to 7-9 by using saturated Na2CO3. The resulting mixture was extracted with EtOAc. The combined organic layer was concentrated and purified by flash chromatography (0 to 50% ethyl acetate:hexanes) to afford the title compound (0.18 g, 95% yield) as a pale yellow solid. LCMS, [M+H]+=237.9. 1H NMR (400 MHz, CDCl3) δ 8.15 (s, 1H), 7.24 (d, J=7.7 Hz, 1H), 7.00 (t, J=7.7 Hz, 1H), 6.69 (d, J=7.7 Hz, 1H), 2.84 (td, J=8.1, 5.2 Hz, 1H), 2.22-2.13 (m, 1H), 1.76 (td, J=9.2, 4.7 Hz, 1H), 0.75 (dd, J=10.0, 5.0 Hz, 1H).

reactant | 7-bromo-3-(4-methoxybenzyl)-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one | 0.837 mmol, 0.300 g | BrC=1C=2C3C(C(N(C2C=CC1)CC1=CC=C(C=C1)OC)=O)C3 | C18H16BrNO2
reactant | CAN | 0.837 mmol, 0.459 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile water | 5.5 mL | C(C)#N.O
product | 7-Bromo-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one | 0.18 g, 95% yield | BrC=1C=2C3C(C(NC2C=CC1)=O)C3 | C10H8BrNO
